US08003792B2
Step A. 1′-(2,2,2-trifluoroethyl)-1,2-dihydrospiro[indole-3,4′-piperidine]
A mixture of 1-acetyl-1,2-dihydrospiro[indole-3,4′-piperidine] hydrochloride, [Chen et al. Tetrahedron Lett. 1996, 37(30), 5233-5234] (200 mg, 0.750 mmol), 2,2,2-trifluoroethyl trifluoromethanesulfonate (0.128 mL, 0.900 mmol), and triethylamine (0.522 mL, 3.75 mmol) in acetone (2 mL) was heated at reflux for 15 h. The mixture was allowed to cool, and the solvent removed under reduced pressure. The residue was taken up in CH2Cl2 (10 mL) and washed with saturated aqueous NaHCO3 (10 mL). The aqueous layer was further extracted with CH2Cl2 (2×10 mL). The combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by silica gel chromatography, eluting with a gradient of hexane:EtOAc-100:0 to 50:50, to provide the title compound. MS: m/z=271 (M+1).

reactant | 1-acetyl-1,2-dihydrospiro[indole-3,4′-piperidine] hydrochloride | Cl.C(C)(=O)N1CC2(CCNCC2)C2=CC=CC=C12
reactant | 2,2,2-trifluoroethyl trifluoromethanesulfonate | 0.900 mmol, 0.128 mL | FC(S(=O)(=O)OCC(F)(F)F)(F)F | C3H2F6O3S
reactant | triethylamine | 3.75 mmol, 0.522 mL | C(C)N(CC)CC | C6H15N
solvent | acetone | 2 mL | CC(=O)C | C3H6O
product | 1′-(2,2,2-trifluoroethyl)-1,2-dihydrospiro[indole-3,4′-piperidine] | FC(CN1CCC2(CC1)CNC1=CC=CC=C12)(F)F | C14H17F3N2
